US07674801B2
Ethyl 1-(2,2-difluoroethyl)-6-iodo-4-oxo-1,4-dihydroquinoline-3-carboxylate
A suspension of ethyl 3-(dimethylamino)-2-(2-fluoro-5-iodobenzoyl)acrylate (335 mg, 0.86 mmol) and 2,2-difluoroethylamine (76 mg, 0.94 mmol) in ethanol (3 mL) was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure and dissolved in DMF (3 mL). Potassium carbonate (178 mg, 1.28 mmol) was added to the reaction mixture and the reaction was heated to 70° C. for 3 h, then cooled to room temperature and poured into water. The title compound formed a precipitate which was collected by filtration and placed upon lyophilizer overnight to remove residual water. MS (ESP): 408 (M+H+) for C14H12F2INO3; NMR: 1.29 (t, J=7 Hz, 3H), 4.25 (q, J=7 Hz, 2H), 4.96 (m, 2H), 6.50 (t, J=20 Hz, 1H), 7.73 (m, 1H), 8.08 (m, 1H), 8.50 (m, 1H), 8.70 (s, 1H).

reactant | ethyl 3-(dimethylamino)-2-(2-fluoro-5-iodobenzoyl)acrylate | 0.86 mmol, 335 mg | CN(C=C(C(=O)OCC)C(C1=C(C=CC(=C1)I)F)=O)C | C14H15FINO3
reactant | 2,2-difluoroethylamine | 0.94 mmol, 76 mg | FC(CN)F | C2H5F2N
reactant | Potassium carbonate | 1.28 mmol, 178 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | Ethyl 1-(2,2-difluoroethyl)-6-iodo-4-oxo-1,4-dihydroquinoline-3-carboxylate | FC(CN1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)OCC)F | C14H12F2INO3
